US03992535
10.7 gm (0.035 mol of 4-hydroxy-2H-naphtho[2,1-e]1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide and 15.0 gm (0.0875 mol) of freshly distilled benzyl bromide were added to a mixture of 33 ml of water and 120ml of ethanol, and then 38.5 ml of 1 N sodium hydroxide were added dropwise. After stirring for 24 hours at room temperature, the crystals which had formed were suction-filtered off, washed with water and dried. Recrystallization from ethylene chloride/petroleum ether yielded 11.9 gm (86% of theory) of 2-benzyl-4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide, m.p. 254°-156° C.

reactant | 4-hydroxy-2H-naphtho[2,1-e]1,2-thiazine-3-carboxylic acid methyl ester-1,1-dioxide | 0.035 mol | COC(=O)C=1NS(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O | C14H11NO5S
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 33 ml | O | H2O
reactant | sodium hydroxide | 1 N, 38.5 ml | [OH-].[Na+]
solvent | ethanol | 120ml | C(C)O | C2H6O
product | 2-benzyl-4-hydroxy-2H-naphtho[2,1-e]-1,2-thiazine-3-carboxylic acid methylester-1,1-dioxide | 11.9 gm, 86% | COC(=O)C=1N(S(C2=C(C1O)C=CC1=CC=CC=C12)(=O)=O)CC1=CC=CC=C1 | C21H17NO5S
